US07368578B2
A mixture of ethylhydrazine oxalate (5.0 g), sodium hydrogen carbonate (5.60 g), water (10 mL) and ethanol (50 mL) was stirred at room temperature for 15 min. Benzaldehyde (3.53 g) was added to the reaction mixture, and the mixture was further stirred at room temperature for 1 hr. To the reaction mixture was added diethyl ethoxymethylenemalonate (7.91 g), and the mixture was heated under reflux for 2 hrs. The reaction mixture was cooled to room temperature, concentrated hydrochloric acid (3 mL) was added and the mixture was further heated under reflux for 15 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl 1-ethyl-3-hydroxy-1H-pyrazole-4-carboxylate as pale-yellow crystals (1.72 g, yield 28%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 109-110° C.

reactant | ethylhydrazine oxalate | 5.0 g | C(C(=O)O)(=O)O.C(C)NN
reactant | sodium hydrogen carbonate | 5.60 g | C(O)([O-])=O.[Na+]
reactant | Benzaldehyde | 3.53 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | diethyl ethoxymethylenemalonate | 7.91 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | Water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | ethyl 1-ethyl-3-hydroxy-1H-pyrazole-4-carboxylate | 1.72 g, yield 28% | C(C)N1N=C(C(=C1)C(=O)OCC)O | C8H12N2O3
